US07572820B2
5-Bromo-2-methyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole
Synthesized as described in Example 4 using 5-bromo-2-methyl-4-(trifluoromethyl)-1H-indole and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 8.31 (s, 1H), 8.23 (d, J=7.8 Hz, 1H), 7.84 (d, J=7.8 Hz, 1H), 7.65 (t, J=7.8 Hz, 1H), 7.44 (s, 2H), 6.58 (s, 1H), 5.41 (s, 2H), 2.63 (s, 3H).

reactant | 5-bromo-2-methyl-4-(trifluoromethyl)-1H-indole | BrC=1C(=C2C=C(NC2=CC1)C)C(F)(F)F | C10H7BrF3N
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 5-Bromo-2-methyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole | BrC=1C(=C2C=C(N(C2=CC1)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F)C)C(F)(F)F | C20H12BrF6N3O
